US04885298
A mixture of 5 g 3-hydroxymethylidene-flavanone and 9 g 4-carboxybenzylamine in 50 ml dry ethanol is stirred under nitrogen and reflux for 30 minutes. After filtration and washing of the solid with warm ethanol, the filtrate is cooled with an ice bath. A yellow precipitate forms which is filtered, dried and recrystallized in toluene. Pure yellow crystalline 3-[N-(4-carboxybenzyl)amino]methylidene-flavanone is obtained; m.p. 195°-200° C.

reactant | 3-hydroxymethylidene-flavanone | 5 g | OC=C1C(OC2=CC=CC=C2C1=O)C1=CC=CC=C1 | C16H12O3
reactant | 4-carboxybenzylamine | 9 g | C(=O)(O)C1=CC=C(CN)C=C1 | C8H9NO2
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | 3-[N-(4-carboxybenzyl)amino]methylidene-flavanone | C(=O)(O)C1=CC=C(CNC=C2C(OC3=CC=CC=C3C2=O)C2=CC=CC=C2)C=C1 | C24H19NO4
